US07678798B2
4-Bromo-6,6a-dihydro-1aH-indeno[1,2-b]oxirene
To a solution of 4-(3-phenylpropyl)pyridine N-oxide (68.88 mg, 0.323 mmol) in methylene chloride (6.00 mL) was added (S,S)-(+)-N,N′-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediamino-manganese(III) chloride (58.62 mg, 0.09.23 mmol) and 2.0 M of sodium hypochlorite in water (4.00 mL) at 0° C. The resulting brown suspension was stirred at 0° C. for 15 min. To the cooled suspension was added a solution of 6-bromo-1H-indene (900 mg, 4.6141 mmol) in methylene chloride (6.00 mL) at 0° C. with simultaneous addition of 2.0 M of sodium hypochlorite in water (4.00 mL) at 0° C. The reaction was kept at 0° C. for 1 h. The reaction was allowed to warm up to room temperature and then stirred at room temperature overnight. The reaction mixture was poured into brine and then extracted with methylen chloride (4×40 mL). The combined extracts were dried over anhydrous Na2SO4, filtered and evaporated under reduced pressure. The crude product was used directly for the next reaction. The ratio of the two diastereomers was 8/1.

reactant | 4-(3-phenylpropyl)pyridine N-oxide | 0.323 mmol, 68.88 mg | C1(=CC=CC=C1)CCCC1=CC=[N+](C=C1)[O-] | C14H15NO
reactant | sodium hypochlorite | 2.0 M | Cl[O-].[Na+]
reactant | 6-bromo-1H-indene | 4.6141 mmol, 900 mg | BrC1=CC=C2C=CCC2=C1 | C9H7Br
reactant | sodium hypochlorite | 2.0 M | Cl[O-].[Na+]
solvent | methylene chloride | 6.00 mL | C(Cl)Cl | CH2Cl2
solvent | water | 4.00 mL | O | H2O
solvent | methylene chloride | 6.00 mL | C(Cl)Cl | CH2Cl2
solvent | water | 4.00 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | (S,S)-(+)-N,N′-bis(3,5-di-tert-butylsalicylidene)-1,2-cyclohexanediamino-manganese(III) chloride | 58.62 mg | CC(C)(C)C1=CC(=C(C(=C1)C=N[C@H]2CCCC[C@@H]2N=CC3=CC(=CC(=C3[O-])C(C)(C)C)C(C)(C)C)[O-])C(C)(C)C.[Cl-].[Mn+3]
product | 4-Bromo-6,6a-dihydro-1aH-indeno[1,2-b]oxirene | BrC1=CC=2CC3C(O3)C2C=C1 | C9H7BrO
